* ================================================================================= *
*                       LTSpice Netlist Created : 9/12/2009                         *
*                       © Peter Kapas, Ventura, CA, USA                             *
*                       e-mail: pkapas@sbcglobal.net                                *
* ----------------------------------------------------------------------------------*

* ================================================================================= *
*                         BLDC (3-Phase) Motor's Subcircuits                        *
* ================================================================================= *
*            Phase_A ...................................................... Input   *
*            | Phase_B .................................................... Input   *
*            | | Phase_C .................................................. Input   *
*            | | | External Load Inertia .................................. Input   *
*            | | | |           External Load Dumping ...................... Input   *
*            | | | |           |        External Torque ................... Input   *
*            | | | |           |        |   Internal Torque on the Rotor .. Output  *
*            | | | |           |        |   |    Angular Velocity ......... Output  *
*            | | | |           |        |   |    | Rotor's Angle .......... Output  *
*            | | | |           |        |   |    | |     Hall1 ............ Output  *
*            | | | |           |        |   |    | |     |  Hall2 ......... Output  *
*            | | | |           |        |   |    | |     |  |  Hall3 ...... Output  *
*            | | | |           |        |   |    | |     |  |  |                    *
*                                                                                   *
.subckt BLDC A B C LoadInertia LoadDump Tin Tout W Angle H1 H2 H3
* --------------------------------------------------------------------------------- *
.param Npp=4 Ph=0           ; Npp     - Number of Pole-Pairs         [-]
                            ; Ph      - Phasing (0: 120°/60: 60°)
.param w0=0 Angle0=0        ; w0      - Initial Angular Velocity     [rad/s]
                            ; Angle0  - Initial Angle                [rad]
.param Jm=.0002 Dm=0.0016   ; Jm      - Rotor's Inertia              [N*m/(rad/s²)] 
                            ; Dm      - Viscose Dumping              [N*m/(rad/s)]
.param R=0.0395 L=30uH      ; R       - Motor's Winding Resistance   [ohm]
                            ; L       - Motor's Winding Inductance   [henry]  
.param Kt=46.47m            ; Kt      - Torque Constant              [N*m/A]
.param Ke={Kt}              ; Ke      - BEMF Constant                [V/(rad/s)]
.param ia0=0  ib0=0  ic0=0  ; i0a,b,c - Initial Phase Currents       [A]
.param Ra={R} Rb={R} Rc={R} ; Ra,b,c  - Single Phase Resistance      [ohm]
.param La={L} Lb={L} Lc={L} ; La,b,c  - Single Phase Inductance      [henry]
.param Tfs=0.005 Tfk=0.0045 ; Tfs     - Start Friction               [N*m]
                            ; Tfk     - Kinetic Friction             [N*m]
* --------------------------------------------------------------------------------- *
XX1 A B C w Angle Tout ELMGStage
+ params: Ra={R} Rb={R} Rc={R} La={L} Lb={L} Lc={L} 
+ ia0={ia0} ib0={ib0} ic0={ic0} Npp={Npp} Ke={Ke} 
XX2 Tin Tout Angle w LoadDump LoadInertia DynStage 
+   params: Tfs={Tfs} Tfk={Tfk} Jm={Jm} Dm={Dm} w0={w0} Angle0={Angle0}
XX3 H1 H2 H3 Angle HallStage params: Npp={Npp} Ph={Ph}
.ends BLDC

* ================================================================================= *
*              Electro-Dynamic Stage of the BLDC Motor (3-Phase System)             *
* ================================================================================= *
*                 Phase_A .................................................. Input  *
*                 |      Phase_B ........................................... Input  *
*                 |      |      Phase_C .................................... Input  *
*                 |      |      |      Rotors's Angular Velocity ........... Input  *
*                 |      |      |      | Rotors's Angle .................... Input  *
*                 |      |      |      | |     Electro-Dynamical Torque .... Output *
*                 |      |      |      | |     |                                    *
*
.subckt ELMGStage APhase BPhase CPhase w Angle Torque
* --------------------------------------------------------------------------------- *
.param Npp=4                ; Npp     - Number of Pole-Pairs                [-]
.param R=39.5m L=30uH       ; R       - Motor's Winding Resistance          [ohm]
                            ; L       - Motor's Winding Inductance          [henry]  
.param Kt=46.47m            ; Kt      - Torque Constant                     [N*m/A]
.param ia0=0  ib0=0  ic0=0  ; i0a,b,c - Initial Phase Currents              [A]
.param Ra={R} Rb={R} Rc={R} ; Ra,b,c  - Single Phase Resistance             [ohm]
.param La={L} Lb={L} Lc={L} ; La,b,c  - Single Phase Inductance             [henry]
* --------------------------------------------------------------------------------- *
XX1 N004 N005 int params: y0={ia0}
XX2 N014 N015 int params: y0={ib0}
XX3 N023 N024 int params: y0={ic0}
XX4 N003 const params: c=1/{La}
XX5 N013 const params: c=1/{Lb}
XX6 N022 const params: c=1/{Lc}
XX7 N008 const params: c={-Ra}
XX8 N018 const params: c={-Rb}
XX9 N027 const params: c={-Rc}
XX10 N001 N006 N009 N007 sum3 params: k1=-1
XX11 N010 N016 N019 N017 sum3 params: k1=-1
XX12 N020 N025 N028 N026 sum3 params: k1=-1
XX13 Angle N002 sin params: N={Npp} A={Ke} Fi=-30
XX14 Angle N012 sin params: N={Npp} A={Ke} Fi=90
XX15 Angle N021 sin params: N={Npp} A={Ke} Fi=-150
XX16 N003 N007 N004 mul2
XX17 N008 N005 N009 mul2
XX18 N013 N017 N014 mul2
XX19 N018 N015 N019 mul2
XX20 N022 N026 N023 mul2
XX21 N027 N024 N028 mul2
XX22 w N002 N001 mul2
XX23 w N012 N010 mul2
XX24 w N021 N020 mul2
XX25 N002 N005 ma mul2
XX26 N012 N015 mb mul2
XX27 N021 N024 mc mul2
XX28 ma mb mc Torque sum3
E1 N006 0 APhase N011 1
G1 APhase N011 N005 0 1
E2 N016 0 BPhase N011 1
G2 BPhase N011 N015 0 1
E3 N025 0 CPhase N011 1
G3 CPhase N011 N024 0 1
R1 APhase N011 1G
R2 BPhase N011 1G
R3 CPhase N011 1G
R4 N011 0 1G
*
.ends ELMGStage

* ================================================================================= *
*                    Mechanical-Dynamic Stage of the BLDC Motor                     *
* ================================================================================= *
*                External Torque ........................................... Input  *
*                |         Internal Torque on the Rotor Shaft .............. Input  *
*                |         |          Rotors's Turning Angle ............... Output *
*                |         |          |     Rotors's Angular Velocity ...... Output *
*                |         |          |     | Ext. Load's Dumping .......... Input  *
*                |         |          |     | |        Ext. Load's Inertia . Output *
*                |         |          |     | |        |                            *
*
.subckt DynStage ExtTorque ELMGTorque Angle w LoadDump LoadInertia
* --------------------------------------------------------------------------------- *
.param Tfs=0.005 Tfk=0.0045 ; Tfs     - Start Friction                        [N*m]
                            ; Tfk     - Kinetic Friction                      [N*m]
* --------------------------------------------------------------------------------- *
XX1 w Angle int params: y0={Angle0}
XX2 N005 w int params: y0={w0}
XX3 w N007 gain params: k={Dm}
XX4 N001 Ts N007 N004 sum3 params: k1=-1 k3=-1
XX5 N002 w N001 mul2
XX6 ELMGTorque ExtTorque Tx sum2
XX7 N003 N006 N005 N004 div12
XX8 N003 const params: c={Jm}
XX9 LoadDump N002 abs
XX10 LoadInertia N006 abs
XX11 Tx TF Ts sum2
XX12 w Tx TF SK_Friction params: Tfs={Tfs} Tfk={Tfk}
*
.ends DynStage

* --------------------------------------------------------------------------------- *
.lib BLDCSupport.LIB
.lib SK_Friction.MOD
* --------------------------------------------------------------------------------- *
.end



