* Non-inverting buffer
* tpd 100n
* tr 160n/60n
.SUBCKT CMOSBUFF  A Y  VDD VGND  vdd1={vdd} speed1={speed} tripdt1={tripdt}
.param td1=1e-9*(100-40-10)*5/{vdd1}*{speed1}
*
XIN1  A Ai  VDD VGND  CD40_IN_1  vdd2={vdd1}  speed2={speed1}  tripdt2={tripdt1} 
*
A1  Ai 0 0 0 0  0 Yp 0  BUF  tripdt={tripdt1}  td={td1}  
*
XOUT  Yp Y  VDD VGND  CD40_OUT_2X  vdd2={vdd1} speed2={speed1}  tripdt2={tripdt1}
.ENDS CMOSBUFF
*
* Inverting buffer
* tpd 100n
* tr 160n/60n
.SUBCKT CMOS_INV  A Y  VDD VGND  vdd1={vdd} speed1={speed} tripdt1={tripdt}
.param td1=1e-9*(100-40-10)*5/{vdd1}*{speed1}
*
XIN1  A Ai  VDD VGND  CD40_IN_1  vdd2={vdd1}  speed2={speed1}  tripdt2={tripdt1} 
*
A1  Ai 0 0 0 0  Yn 0 0  BUF  tripdt={tripdt1}  td={td1}  
*
XOUT  Yn Y  VDD VGND  CD40_OUT_2X  vdd2={vdd1} speed2={speed1}  tripdt2={tripdt1}
.ENDS CMOS_INV
*
* 2-input AND gate
* tpd 125n
* tr 100n
.SUBCKT CMOS_AND  A B Y  VDD VGND  vdd1={vdd} speed1={speed} tripdt1={tripdt}
.param td1=1e-9*(125-40-10)*5/{vdd1}*{speed1}
*
XIN1  A Ai  VDD VGND  CD40_IN_1  vdd2={vdd1}  speed2={speed1}  tripdt2={tripdt1} 
XIN2  B Bi  VDD VGND  CD40_IN_1  vdd2={vdd1}  speed2={speed1}  tripdt2={tripdt1} 
*
A1  Ai Bi 0 0 0  0 Yp 0  AND  tripdt={tripdt1}  td={td1}  
*
XOUT  Yp Y  VDD VGND  CD40_OUT_1X  vdd2={vdd1} speed2={speed1}  tripdt2={tripdt1}
.ENDS CMOS_AND
*
* 2-input NAND gate
* tpd 125n
* tr 100n
.SUBCKT CMOS_NAND  A B Y  VDD VGND  vdd1={vdd} speed1={speed} tripdt1={tripdt}
.param td1=1e-9*(125-40-10)*5/{vdd1}*{speed1}
*
XIN1  A Ai  VDD VGND  CD40_IN_1  vdd2={vdd1}  speed2={speed1}  tripdt2={tripdt1} 
XIN2  B Bi  VDD VGND  CD40_IN_1  vdd2={vdd1}  speed2={speed1}  tripdt2={tripdt1} 
*
A1  Ai Bi 0 0 0  Yi 0 0  AND  tripdt={tripdt1}  td={td1}  
*
XOUT  Yi Y  VDD VGND  CD40_OUT_1X  vdd2={vdd1} speed2={speed1}  tripdt2={tripdt1}
.ends CMOS_NAND
*
* 2-input OR gate
* tpd 125n
* tr 100n
.SUBCKT CMOS_OR  A B Y  VDD VGND  vdd1={vdd} speed1={speed} tripdt1={tripdt}
.param td1=1e-9*(125-40-10)*5/{vdd1}*{speed1}
*
XIN1  A Ai  VDD VGND  CD40_IN_1  vdd2={vdd1}  speed2={speed1}  tripdt2={tripdt1} 
XIN2  B Bi  VDD VGND  CD40_IN_1  vdd2={vdd1}  speed2={speed1}  tripdt2={tripdt1} 
*
A1  Ai Bi 0 0 0  0 Yp 0  OR  tripdt={tripdt1}  td={td1}  
*
XOUT  Yp Y  VDD VGND  CD40_OUT_1X  vdd2={vdd1} speed2={speed1}  tripdt2={tripdt1}
.ends CMOS_OR
*
* 2-input NOR gate
* tpd 125n
* tr 100n
.SUBCKT CMOS_NOR  A B Y  VDD VGND  vdd1={vdd} speed1={speed} tripdt1={tripdt}
.param td1=1e-9*(125-40-10)*5/{vdd1}*{speed1}
*
XIN1  A Ai  VDD VGND  CD40_IN_1  vdd2={vdd1}  speed2={speed1}  tripdt2={tripdt1} 
XIN2  B Bi  VDD VGND  CD40_IN_1  vdd2={vdd1}  speed2={speed1}  tripdt2={tripdt1} 
*
A1  Ai Bi 0 0 0  Yi 0 0  OR  tripdt={tripdt1}  td={td1}  
*
XOUT  Yi Y  VDD VGND  CD40_OUT_1X  vdd2={vdd1} speed2={speed1}  tripdt2={tripdt1}
.ENDS CMOS_NOR
*
* 2-input exclusive OR-gate
* tpd 140n
* tr 100n
.SUBCKT CMOSEXOR  A B Y  VDD VGND  vdd1={vdd} speed1={speed} tripdt1={tripdt}
.param td1=1e-9*(140-40-10)*5/{vdd1}*{speed1}
*
XIN1  A Ai  VDD VGND  CD40_IN_1  vdd2={vdd1}  speed2={speed1}  tripdt2={tripdt1} 
XIN2  B Bi  VDD VGND  CD40_IN_1  vdd2={vdd1}  speed2={speed1}  tripdt2={tripdt1} 
*
A1  Ai Bi 0 0 0  0 Yp 0  XOR  tripdt={tripdt1}  td={td1}  
*
XOUT  Yp Y  VDD VGND  CD40_OUT_1X  vdd2={vdd1} speed2={speed1}  tripdt2={tripdt1}
.END CMOSEXOR
*
* D-flip-flop with asynchronous set and reset
* CP->Q Tpd 200n
* R/S->Q Tpd 150n
* CP/R/S Tw 50n
* D->CP Ts 20n
* D->CP Th 0n
* R,S Trem 40n		Set	Clock	Data	Reset	Q	_Q
.SUBCKT CMOS_DFF  S 		C		D		R		Q	QN  VDD VGND  vdd1={vdd} speed1={speed} tripdt1={tripdt}
.param td1=1e-9*(150-10-40-10)*5/{vdd1}*{speed1}
.param td2=1e-9*(150-10-40-10)*5/{vdd1}*{speed1}
.param td3=1e-9*(150+20-10-40-10)*5/{vdd1}*{speed1}
.param td4=1e-9*(10)*5/{vdd1}*{speed1}
*
XIN1  S Si  VDD VGND  CD40_IN_1  vdd2={vdd1}  speed2={speed1}  tripdt2={tripdt1} 
XIN2  C Ci  VDD VGND  CD40_IN_1  vdd2={vdd1}  speed2={speed1}  tripdt2={tripdt1} 
XIN3  D Di  VDD VGND  CD40_IN_1  vdd2={vdd1}  speed2={speed1}  tripdt2={tripdt1} 
XIN4  R Ri  VDD VGND  CD40_IN_1  vdd2={vdd1}  speed2={speed1}  tripdt2={tripdt1} 
*
ACDEL  Ci 0 0  0  0   0   Cp 0  BUF  tripdt={tripdt1}  td={td1} 
ADDEL  Di 0 0  0  0   0   Dp 0  BUF  tripdt={tripdt1}  td={td3} 
ARINV  Ri 0 0  0  0   0   Rp  0  BUF  tripdt={tripdt1}  td={td2}
ASINV  Si 0 0  0  0   0   Sp  0  BUF  tripdt={tripdt1}  td={td2}
A1     Di Dp Cp Sp Rp  QNi Qi 0  DFLOP  tripdt={tripdt1} td={td4}
*
XOUT1  Qi  Q   VDD VGND  CD40_OUT_1X  vdd2={vdd1} speed2={speed1}  tripdt2={tripdt1}
XOUT2  QNi QN  VDD VGND  CD40_OUT_1X  vdd2={vdd1} speed2={speed1}  tripdt2={tripdt1}
.ENDS CMOS_DFF
*
*
.SUBCKT  CD40_IN_1  in out  VDD VGND  vdd3={vdd2} speed3={speed2}  tripdt3={tripdt2} 
* 3ns input delay
*.param Cval = 0.55e-12*4/({vdd3}-0.5)*{speed3}
* 10ns delay @5V
.param Cval = 1.8e-12*5/{vdd3}*{speed3}
.param vt1=0.5
.param gain=(1/{vdd3})
*
*D1 0   in  CD40DIO1 
D2 in VDD  CD40DIO1
R1 in out10 10k
C1 out10 VGND {Cval}
R2 in VGND 1e8
*E1 out20 0 out10 VGND {gain}
B1 out20 0 V=LIMIT(0,V(out10,VGND)*{gain},1)
AE1  out20 0 0 0 0  0 out 0  BUF  ref={vt1}  vhigh=1  tripdt={tripdt3}
.MODEL CD40DIO1 D(Is=1e-12 Rs=100)
.ends
*
*
* Standard output driver
.SUBCKT  CD40_OUT_1X  in out  VDD VGND  vdd3={vdd2} speed3={speed2}  tripdt3={tripdt2}
.param trise1=80e-9*5.0/{vdd3}*{speed3}
.param Rout=500*5.0/{vdd3}*{speed3}
*
AE1  in 0 0 0 0  0 out10 0  BUF  tripdt={tripdt3}  trise={trise1}
*
E1 out20 VGND out10 0 {vdd3}
Rout out20 out {Rout}
D1 0   out  DIO2 
D2 out VDD  DIO2
.ends
*
*
* Strong output driver
.SUBCKT  CD40_OUT_2X  in out  VDD VGND  vdd3={vdd2} speed3={speed2}  tripdt3={tripdt2}
.param trise1=80e-9*5/{vdd3}*{speed3}
.param Rout=250*5.0/{vdd3}*{speed3}
*
AE1  in 0 0 0 0  0 out10 0  BUF  tripdt={tripdt3}  trise={trise1}
*
E1  out20 VGND out10 0 {vdd3}
Rout  out20 out {Rout}
D1 0   out  DIO2 
D2 out VDD  DIO2
.ends
.MODEL DIO2 D(Is=1e-12 Rs=10)