*4046 VCO Section		
* Rin= VCO Input Resistace S1= Voltage Limiter linear slope. S2= Voltage Limiter non-linear slope.
* Vx = Input threshold voltage (between S1 and S2).
* Kb = Arbitrary constant to adjust the value of the conversion gain (transimpedance gain).
* Vfree= Frequency dependent constant in Emult. Kc= Negative inverse amplitude of the square wave.
* Vt = Trigger voltage of Schmitt trigger (not used). Vxqr= Amplitude of square wave (not used).
* M1 & M2 = Current mirror multiplier to adjust oscillator frequency.
.Subckt 4046Vco Vcoin r1 r2 ce1 ce2 vcout inh zener vdd vss
*+	Params Rin=1Meg S1=1  S2=0.5 M1=0.5 M2=1.0 Vx=10
*+	Kb=1 Vfree=0.0 Kc=-0.1 Vt=1.2 Vxqr=10
Rvdd Vdd 0 1g
Rin vcoin vss {Rin}
Bvlim vlim 0 V=(if(v(vcoin,vss)<v(vdd,vss),
+	S1*v(vcoin,vss),S2*(v(vcoin,vss)-v(vdd,vss))+v(vdd,vss)))
Rvlim vlim 0 1e6
Bmult mix 0 V=(v(vlim)*Kb+Vfree)
Rmult mix 0 1

*Bdemout demout 0 V=table ((2e8*v(vcoin,demout)*v(off)),-20,-20, 20,20)
*Rdemout demout 0 1e6
ER2 ir2 0 vdd ir2 2e8
VR2 ir2 r2 0
ER1 ir1 0 mix ir1 2e8
VR1 ir1 r1 0

Bosclg adj 0 V=TABLE ((abs((V(vdd)/I(VR2))/(V(mix)/I(VR1))))
+,.5,1.43, 1,1.6, 10,1.04, 50,.67, 100,.84, 101,1, 102,1, 1000,1)

Radj adj 0 1G
BIM ce1 0 I=((M1*I(VR1)*V(adj)+M2*I(VR2))*Kc*V(sqrrc))
Vcext ce2 0 0 ;(Vcext ce2 0)
Cstray ce1 ce2 6p
Rcext ce1 ce2 1g ;(1T)
Etrngl trngl 0 ce1 0 1
Rtrngl trngl 0 1e6
Bsqr sqr 0 V=(-10e6*V(trngl)+1.2e6*V(sqrrc))
Rsqr sqr sqrrc 100g ;(.1T)
Csqr sqrrc 0 10f
Dsqr1 sqrrc 13 Diode
Vsqr1 13 0 {Vx}
Dsqr2 14 sqrrc Diode
.model Diode D (IS=10u N=0.1 CJO=80f RS=1m)
Vsqr2 14 0 {-Vx}
Ipls 0 sqrrc pwl 0 0 10n 0 20n 0.01u 0.1u 0.01u 0.12u 0 1 0
Bvcoout vcout 0 V=table ((v(vdd)*v(off)*(v(sqrrc)/Vx)),.1,.1, v(vdd),v(vdd))
Rinh inh 0 1e6
Boff off 0 V=(if(v(inh)<0.9,1.0,0.0))
Roff off 0 1e6
Dzener vss zener znr
Rzener vss zener 1G
.model znr	D(Is=1.004f Rs=.5875 Ikf=0 N=1 Xti=3 Eg=1.11 Cjo=160p M=.5484
+		Vj=.75 Fc=.5 Isr=1.8n Nr=2 Bv=5.2 Ibv=27.721m Nbv=1.1779
+		Ibvl=1.1646m Nbvl=21.894 Tbv1=176.47u)
.ends
