* Z:\media\bak1\Temp\EleUpdAdd\Lt\LtSpiceIV_Plus_12_2009\examples\Robertugo\PowerCir\ZeroCross\x0.asc
D1 0 N001 1N4007
D2 0 N002 1N4007
D3 N001 N008 1N4007
D4 N002 N008 1N4007
XU1 N008 N004 0 T106F1
D5 N005 N006 1N4007
D6 N006 N009 1N4007
XP1 N005 N009 N007 Pot Rt=47k Set=.0
R2 N007 N004 27k
C1 N007 0 22µ V=100 Irms=590m Rser=0.1 MTBF=2000 Lser=0 mfg="Nichicon" pn="UPR2A221MRH" type="Al electrolytic" ppPkg=1
C2 N004 0 1.2µ V=100 Irms=4.58 Rser=0.025 MTBF=0 Lser=0 mfg="KEMET" pn="C2225C105K1RAC" type="X7R" ppPkg=1
R3 N004 0 1k
R1 N006 N008 470
D7 N004 N001 1N4007
D8 N004 N002 1N4007
C3 N002 N001 100n
Vca N001 N003 SINE(0 310 50) Rser=1
RL N002 N003 220
.model D D
.lib Z:\media\windows\Program Files\LTC\LTspiceIV\lib\cmp\standard.dio
.tran 5
.lib pote.lib
.lib teccscr.lib
.backanno
.end
